US04544664
To a mixture of N-(trimethylsilyl)imidazole (1.4 g) and titanium tetrachloride (1.6 ml) in dry chloroform (20 ml) a solution of 1-chloro-1-(2,6-dimethylphenyl)ethane (1.7 g) in dry chloroform (10 ml) was added. After stirring for 5 h at room temperature the product mixture was poured onto water, washed with ether and neutralized with sodium hydrogen carbonate. Filtration and extraction with methylene chloride gave 4-[(α-methyl)-2,6-dimethylbenzyl]imidazole, yield 33%.

reactant | N-(trimethylsilyl)imidazole | 1.4 g | C[Si](N1C=NC=C1)(C)C | C6H12N2Si
reactant | 1-chloro-1-(2,6-dimethylphenyl)ethane | 1.7 g | ClC(C)C1=C(C=CC=C1C)C | C10H13Cl
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | titanium tetrachloride | 1.6 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4-[(α-methyl)-2,6-dimethylbenzyl]imidazole | yield 33% | CC(C1=C(C=CC=C1C)C)C=1N=CNC1 | C13H16N2
